US04363909
A 4 N aqueous solution of sodium hydroxide (30 cc) is added to a solution of (S)-3-[(4-ethoxycarbonylmethylthiazol-2-yl)imino]-1,5,10,10a-tetrahydrothiazolo-[3,4-b]isoquinoline (10 g) in ethanol (60 cc). The mixture is heated under reflux for two hours. After cooling to 20° C., it is acidified by adding 12 N hydrochloric acid (d=1.19; 11 cc). The white precipitate which has formed is filtered off, washed with water and dried at 20° C. under reduced pressure (0.1 mm Hg; 0.013 kPa). The resulting solid is crystallised by dissolving it in boiling ethanol (200 cc), cooling and filtering off the crystals formed; the product is then recrystallised by dissolving it in dimethylformamide (60 cc) at 100° C., adding ethanol (120 cc) and cooling to 0° C. The crystals are filtered off, washed with ethanol (20 cc) and then with diethyl ether (20 cc) and dried at 40° C. under reduced pressure (0.1 mm Hg; 0.013 kPa) to yield (S)-3-[(4-carboxymethylthiazol-2-yl)imino]-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline hydrochloride (5.6 g), m.p.=206° C.

reactant | sodium hydroxide | 30 cc | [OH-].[Na+]
reactant | (S)-3-[(4-ethoxycarbonylmethylthiazol-2-yl)imino]-1,5,10,10a-tetrahydrothiazolo-[3,4-b]isoquinoline | 10 g | C(C)OC(=O)CC=1N=C(SC1)N=C1SC[C@H]2N1CC=1C=CC=CC1C2 | C18H19N3O2S2
reactant | hydrochloric acid | 12 N, 11 cc | Cl | ClH
solvent | ethanol | 60 cc | C(C)O | C2H6O
product | (S)-3-[(4-carboxymethylthiazol-2-yl)imino]-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline hydrochloride | 5.6 g | Cl.C(=O)(O)CC=1N=C(SC1)N=C1SC[C@H]2N1CC=1C=CC=CC1C2 | InChI=1S/C16H15N3O2S2.ClH/c20-14(21)6-12-8-22-15(17-12)18-16-19-7-11-4-2-1-3-10(11)5-13(19)9-23-16;/h1-4,8,13H,5-7,9H2,(H,20,21);1H/t13-;/m0./s1
